US09029374B2
Bis(triphenylphosphine) palladium (II) chloride (12.78 mg, 0.02 mmol) was added to a stirred mixture of 8-bromo-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (215 mg, 0.61 mmol) and tributyl(1-ethoxyvinyl)stannane (0.226 mL, 0.67 mmol) in 1,4-dioxane (5 mL) and the mixture was purged with nitrogen. The resulting mixture was stirred at 100° C. for 3 hrs. HCl 2N (0.5 mL) was added and the reaction mixture was stirred at 50° C. for 25 minutes then allowed to cool to room temperature and concentrated under vacuum. The product was diluted with diethyl ether and pentane to afford a solid, which was collected by filtration and washed with ether/pentane to give 8-acetyl-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (200 mg, 104%) as a beige solid. Mass Spectrum: M+H+ 318.

reactant | 8-bromo-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.61 mmol, 215 mg | BrC=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C14H12BrNO5
reactant | tributyl(1-ethoxyvinyl)stannane | 0.67 mmol, 0.226 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Bis(triphenylphosphine) palladium (II) chloride | 0.02 mmol, 12.78 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-acetyl-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 200 mg, 104% | C(C)(=O)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C16H15NO6
